US07115592B2
5-Cyano-2,4-diamino-6-[2-(diisopropoxyphosphorylmethoxy)ethoxy]pyrimidine (1.5 g, 4 mmol) was hydrogenated in water (36 ml) and sulfuric acid (6 ml) over 5% palladium on charcoal (0.25 g) under stirring for 20 h at room temperature. The mixture was filtered through a pad of Celite and the catalyst was washed with hot water and hot methanol (100 ml each). The filtrate was neutralized with aqueous NaOH and solvents evaporated. The residue was mixed with hot methanol, salts were filtered off and the mixture was taken down. Product was purified by column chromatography on silica gel (elution with 3% MeOH in CHCl3) to give 0.63 g (42%) of 5-formyl-2,4-diamino-6-[2-(diisopropoxyphosphorylmethoxy)ethoxy]pyrimidine.

reactant | 5-Cyano-2,4-diamino-6-[2-(diisopropoxyphosphorylmethoxy)ethoxy]pyrimidine | 4 mmol, 1.5 g | C(#N)C=1C(=NC(=NC1OCCOCP(=O)(OC(C)C)OC(C)C)N)N | C14H24N5O5P
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 36 ml | O | H2O
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
product | 5-formyl-2,4-diamino-6-[2-(diisopropoxyphosphorylmethoxy)ethoxy]pyrimidine | 0.63 g, 42% | C(=O)C=1C(=NC(=NC1OCCOCP(=O)(OC(C)C)OC(C)C)N)N | C14H25N4O6P
